### ISSUE TITLE
Lint no-op coercions

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#63]
We could write a linter to detect explicit coercions `↑x` that expand to a no-op.

e.g detect:

```lean
example (n : ℕ) : (↑n : ℕ) = n := by
  rfl
```

and suggest:

```lean
example (n : ℕ) : n = n := by
  rfl
```

Originally suggested by @eric-wieser.
